US06673799B1
4-Amino-2-(1-imidazolyl)pyridine
A 0.12 g portion of 2-(1-imidazolyl)-4-nitropyridine N-oxide was suspended in 14 ml of 70% ethanol aqueous solution, 0.32 g of iron powder and 20 mg of ammonium chloride were added in that order to the suspension and then the mixture was heated at 100° C. for about 20 minutes. Then, the insoluble matter was immediately removed by filtration, and the resulting filtrate was evaporated under reduced pressure to obtain 0.1 g of the title compound.

reactant | 2-(1-imidazolyl)-4-nitropyridine N-oxide | N1(C=NC=C1)C1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C8H6N4O3
reactant | ammonium chloride | 20 mg | [Cl-].[NH4+]
solvent | ethanol | 14 ml | C(C)O | C2H6O
catalyst | iron | 0.32 g | [Fe] | Fe
product | 4-Amino-2-(1-imidazolyl)pyridine | 0.1 g | NC1=CC(=NC=C1)N1C=NC=C1 | C8H8N4
